US05147645
a) 3-sec-Butyl-2-methyl-(α-ethynyl)-benzyl alcohol
50 ml of absolute THF is saturated under a nitrogen blanket at 0° C. with acetylene. While passing in further acetylene, 87 ml of methylmagnesium chloride solution (1.5 molar) is dripped in over a 45-minute period, and the whole is then stirred for 30 minutes at 0° C. At -20° C., a solution of 15.3 g of 3-sec-butyl-2-methylbenzaldehyde in 20 ml of absolute THF is dripped in. The mixture is stirred for 2 hours at -20° C., is allowed to stand overnight at room temperature, and is then poured into 300 ml of ice water. The mixture is acidified with dilute hydrochloric acid and extracted by shaking three times with ether. The combined ether extracts are washed with water, dried over sodium sulfate and concentrated. There is obtained 16.6 g of an oil (70% desired compound), which, after purification by column chromatography over silica gel using toluene as eluant, gives 5.1 g of the pure benzyl alcohol.

reactant | methylmagnesium chloride | 1.5 molar, 87 ml | C[Mg]Cl
reactant | 3-sec-butyl-2-methylbenzaldehyde | 15.3 g | C(C)(CC)C=1C(=C(C=O)C=CC1)C | C12H16O
reactant | hydrochloric acid | Cl | ClH
reactant | acetylene | C#C | C2H2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-sec-Butyl-2-methyl-(α-ethynyl)-benzyl alcohol | 16.6 g, 70% | C(C)(CC)C=1C(=C(C(C#C)O)C=CC1)C | C14H18O
